US09085563B2
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione bromoacetate
Bromoacetic acid (138.95 mg) and 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione (288 mg) were dissolved in DCM (20 mL). The mixture was stirred on a magnetic stirrer at room temperature. DCC (206 mg) was added in one portion. The mixture was allowed to react overnight. Then, the mixture was filtered to remove dicyclohexylurea. The filter cake was washed several times with DCM. The filtrates were combined and then washed three times with brine (30 mL/wash), dried over anhydrous magnesium sulfate, and filtered. The solvent was eliminated by rotary evaporation in vacuo and then white solid (390 mg) was obtained. 1H NMR (CDCl3, ppm) δ 7.88-7.90 (m, 2H), 7.77-7.79 (m, 2H), 4.96-5.08 (m, 1H), 4.85 (s, 2H), 4.02-4.12 (m, 2H), 3.76-3.80 (m, 2H), 2.94-3.02 (m, 1H), 2.72-2.90 (m, 2H), 2.14-2.23 (m, 1H).

reactant | Bromoacetic acid | 138.95 mg | BrCC(=O)O | C2H3BrO2
reactant | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione | 288 mg | OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | C15H14N2O5
reactant | DCC | 206 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione bromoacetate | 390 mg | BrCC(=O)O.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | InChI=1S/C15H14N2O5.C2H3BrO2/c18-8-7-16-12(19)6-5-11(15(16)22)17-13(20)9-3-1-2-4-10(9)14(17)21;3-1-2(4)5/h1-4,11,18H,5-8H2;1H2,(H,4,5)
